US04451463
Yellow mercuric oxide (30.1 g.) was added quickly to a stirred solution of 1-(4-hydroxybutyl)-3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazole (10.4 g.) in methanolic ammonia (5 M; 340 ml.). After stirring for 3 hours at room temperature, the reaction mixture was filtered through diatomaceous earth and the filtrate evaporated to dryness in vacuo to give 1-(4-hydroxybutyl)-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole, m.p. 105°-106° (yield 82%).

reactant | 1-(4-hydroxybutyl)-3-[3-(2,2,2-trifluoroethyl)thioureido]pyrazole | 10.4 g | OCCCCN1N=C(C=C1)NC(=S)NCC(F)(F)F | C10H15F3N4OS
reactant | ammonia | 5 M, 340 ml | N | H3N
product | 1-(4-hydroxybutyl)-3-[2-(2,2,2-trifluoroethyl)guanidino]pyrazole | yield 82% | OCCCCN1N=C(C=C1)NC(=NCC(F)(F)F)N | C10H16F3N5O
